US08278343B2
Preparation 62: 1-(4-Fluoro-benzoyl)-3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 4′-fluoro-biphenyl-4-ol and 1-(4-fluoro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 12) to afford the racemate as a white solid (150 mg, 73%)

reactant | 4′-fluoro-biphenyl-4-ol | FC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9FO
reactant | 1-(4-fluoro-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)F)=O)CI | C15H17FINO3
product | 1-(4-Fluoro-benzoyl)-3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)F)=O)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C27H25F2NO4
